US07807708B2
Synthesis of 3″-tert-butyl-4″-diethylamino-4′-(2,3-dihydroxypropyl)-[1,1′;3′,1″]terphenyl-4-carboxylic acid
In a manner similar to that of Example 3, by reacting 70 mg of ethyl 3″-tert-butyl-4″-diethylamino-4′-(2,3-dihydroxypropyl)-[1,1′;3′,1″]terphenyl-4-carboxylate (0.14 mmol) with 0.2 mL of 1N sodium hydroxide solution, 58 mg of 3″-tert-butyl-4″-diethylamino-4′-(3-hydroxypropyl)-[1,1′;3′,1″]terphenyl-4-carboxylic acid are obtained (yield=86%) in the form of a white solid (m.p.=130° C.).

reactant | ethyl 3″-tert-butyl-4″-diethylamino-4′-(2,3-dihydroxypropyl)-[1,1′;3′,1″]terphenyl-4-carboxylate | 0.14 mmol, 70 mg | C(C)(C)(C)C=1C=C(C=CC1N(CC)CC)C=1C=C(C=CC1CC(CO)O)C1=CC=C(C=C1)C(=O)OCC | C32H41NO4
reactant | sodium hydroxide | 1N, 0.2 mL | [OH-].[Na+]
reactant | 3″-tert-butyl-4″-diethylamino-4′-(3-hydroxypropyl)-[1,1′;3′,1″]terphenyl-4-carboxylic acid | 58 mg | C(C)(C)(C)C=1C=C(C=CC1N(CC)CC)C=1C=C(C=CC1CCCO)C1=CC=C(C=C1)C(=O)O | C30H37NO3
product | 3″-tert-butyl-4″-diethylamino-4′-(2,3-dihydroxypropyl)-[1,1′;3′,1″]terphenyl-4-carboxylic acid | yield=86% | C(C)(C)(C)C=1C=C(C=CC1N(CC)CC)C=1C=C(C=CC1CC(CO)O)C1=CC=C(C=C1)C(=O)O | C30H37NO4
